US07666871B2
2-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenoxymethyl}-pyridine
A mixture of methanesulfonic acid 2-{5-methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethyl ester (0.85 mmol) and pyrrolidine (0.71 mL, 8.5 mmol) in THF (4 mL) is heated at reflux overnight. The mixture is partitioned between EtOAc and water. The aqueous phase is extracted with EtOAc (2×), and the combined organic phase is washed with brine and dried (NaSO4). After the solvent is removed, the residue is purified by flash chromatography chromatography [40 g SiO2, elute 20% (10% 2 M NH3 in MeOH/90% CH2Cl2): 80% CH2Cl2 to 70% (10% 2 M NH3 in MeOH/90% CH2Cl2): 30% CH2Cl2] to yield the title compound. MS (m/e): 364.2 (M+1)

reactant | methanesulfonic acid 2-{5-methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethyl ester | 0.85 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)OCC1=NC=CC=C1)CCOS(=O)(=O)C | C19H20N2O5S
reactant | pyrrolidine | 8.5 mmol, 0.71 mL | N1CCCC1 | C4H9N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-{4-[5-Methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazol-2-yl]-phenoxymethyl}-pyridine | CC1=C(N=C(O1)C1=CC=C(OCC2=NC=CC=C2)C=C1)CCN1CCCC1 | C22H25N3O2
